US08008481B2
To a suspension of Eschenmoser's salt (0.91 g, 4.9 mmol) in CH3CN (3 mL) and HOAc (1.5 mL) at rt was added a solution of 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (1.0 g, 4.1 mmol) in CH3CN (3 mL) dropwise over about 10 min. After about 2 hours, the reaction was quenched with saturated aqueous NaHCO3 and extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to give crude N,N-Dimethyl-1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-3-yl]methanamine (0.60 g, 50%); RP-HPLC (Table 1, Method g) Rt 1.39 min; 1H NMR (d6-DMSO, 400 MHz) δ11.26 (br s, 1H), 8.07 (s, 1H), 7.44 (d, J=8.2 Hz, 1H), 7.37 (m, 2H), 3.92 (s, 2H), 2.40 (s, 6H), 1.31 (s, 12H).

reactant | Eschenmoser's salt | 4.9 mmol, 0.91 g | C[N+](=C)C.[I-]
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 4.1 mmol, 1.0 g | CC1(OB(OC1(C)C)C=1C=C2C=CNC2=CC1)C | C14H18BNO2
solvent | CH3CN | 3 mL | CC#N | C2H3N
solvent | HOAc | 1.5 mL | CC(=O)O | C2H4O2
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | N,N-Dimethyl-1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-3-yl]methanamine | 0.60 g, 50% | CN(CC1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C | C17H25BN2O2
